US08557830B2
A clear microwave vial was charged with 7-methyl-4-(methylthio)-N-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-yl)quinazolin-8-amine (0.200 g, 0.413 mmol) and 4-chlorobenzenamine (0.105 g, 0.825 mmol) and 5 ml of dioxane. A few drops of TFA was added to the mixture and the reaction vial was capped. The vial was heated in a microwave reactor at 160° C. for 12 minutes. The solid that crashed out of the reaction mixture was filtered off and washed with ethyl acetate. The solid was dissolved in DMSO (3 ml) and purified by RP-HPLC using a gradient of 5% ACN 0.1% TFA to 95% ACN 0.1% TFA in water 0.1% TFA. The pure fractions were neutralized with ammonium hydroxide and the volatiles were removed under reduced pressure. The solid that crashed out of the aqueous layer was filtered off, washed with water and dried in a vacuum oven at 45 degrees to give N8-(3-(9H-purin-6-yl)pyridin-2-yl)-N4-(4-chlorophenyl)-7-methylquinazoline-4,8-diamine as a yellow solid. MS Found: (ESI pos. ion) m/z 480 (M+H+).

reactant | 7-methyl-4-(methylthio)-N-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-yl)quinazolin-8-amine | 0.413 mmol, 0.200 g | CC1=CC=C2C(=NC=NC2=C1NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1)SC | C25H24N8OS
reactant | 4-chlorobenzenamine | 0.825 mmol, 0.105 g | ClC1=CC=C(C=C1)N | C6H6ClN
catalyst | TFA | A few drops | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N8-(3-(9H-purin-6-yl)pyridin-2-yl)-N4-(4-chlorophenyl)-7-methylquinazoline-4,8-diamine | N1=CN=C2NC=NC2=C1C=1C(=NC=CC1)NC=1C(=CC=C2C(=NC=NC12)NC1=CC=C(C=C1)Cl)C | C25H18ClN9
